US07977340B2
A stirred mixture of 2-Amino-5-pyridin-3-yl-benzothiazole-7-carboxylic acid methyl ester (125 mg, 0.439 mmol), ethyl isocyanate (0.21 ml, 2.187 mmol) and dibutyltindiacetate (12 drops) in anhydrous 1,4-dioxane (10 ml) was heated in a sealed vessel at 100° C. for 16 h. After cooling to ambient temperature, the solvent was removed in vacuo to give 2-(3-Ethyl-ureido)-5-pyridin-3-yl-benzothiazole-7-carboxylic acid methyl ester which was used without further purification. A stirred mixture of 2-(3-Ethyl-ureido)-5-pyridin-3-yl-benzothiazole-7-carboxylic acid methyl ester (78 mg, 0.22 mmol) and aqueous ethylamine solution (70% w/v, 3 ml) was heated by microwave irradiation in a CEM Discover reactor at 100° C. for 1 h. The reaction mixture was purified by Preparative HPLC to provide the 2-(3-Ethyl-ureido)-5-pyridin-3-yl-benzothiazole-7-carboxylic acid ethylamide as a white solid (8.7 mg, 5%).

reactant | 2-(3-Ethyl-ureido)-5-pyridin-3-yl-benzothiazole-7-carboxylic acid methyl ester | 0.22 mmol, 78 mg | COC(=O)C1=CC(=CC=2N=C(SC21)NC(=O)NCC)C=2C=NC=CC2 | C17H16N4O3S
reactant | ethylamine | 3 ml | C(C)N | C2H7N
product | 2-(3-Ethyl-ureido)-5-pyridin-3-yl-benzothiazole-7-carboxylic acid ethylamide | 8.7 mg, 5% | C(C)NC(=O)C1=CC(=CC=2N=C(SC21)NC(=O)NCC)C=2C=NC=CC2 | C18H19N5O2S
